US07842713B2
2-Ethyl-N-(1-methyl-1H-pyrazol-3-yl)-4-[4-(methylsulfonyl)-phenoxy]-1-benzofuran-6-carboxamide
A solution of 2-ethyl-4-[4-(methylsulfonyl)phenoxy]-1-benzofuran-6-carboxylic acid (400 mg, 1.1 mmol), HATU (635 mg, 1.6 mmol) and DIPEA (214 mg, 1.6 mmol) in DMF (20 mL) was stirred for 1 h. Then, 1-methyl-1H-pyrazol-3-amine (129 mg, 1.3 mmol) was added. The resulting solution was stirred overnight. The reaction was monitored by TLC (petroleum ether/EtOAc 1:1). The mixture was poured into water (30 mL) and extracted with EtOAc (30 mL×3). The organic layer was washed with brine (20 mL×2), dried over Na2SO4, concentrated and purified by preparative HPLC to afford the desired product (109.5 mg, 22%) as a yellow solid. 1H NMR (400 MHz, DMSO): δ 10.89 (s, 1H), 8.15 (s, 1H), 7.94 (d, 2H), 7.65 (s, 1H), 7.00 (s, 1H), 7.24 (d, 2H), 6.61 (s, 1H), 6.55 (d, 2H), 3.77 (s, 3H), 3.20 (s, 3H), 2.82 (q, 2H), 1.25 (t, 3H); MS (APCI, pos): 440.3.

reactant | 2-ethyl-4-[4-(methylsulfonyl)phenoxy]-1-benzofuran-6-carboxylic acid | 1.1 mmol, 400 mg | C(C)C=1OC2=C(C1)C(=CC(=C2)C(=O)O)OC2=CC=C(C=C2)S(=O)(=O)C | C18H16O6S
reactant | HATU | 1.6 mmol, 635 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.6 mmol, 214 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methyl-1H-pyrazol-3-amine | 1.3 mmol, 129 mg | CN1N=C(C=C1)N | C4H7N3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 2-Ethyl-N-(1-methyl-1H-pyrazol-3-yl)-4-[4-(methylsulfonyl)-phenoxy]-1-benzofuran-6-carboxamide | 109.5 mg, 22% | C(C)C=1OC2=C(C1)C(=CC(=C2)C(=O)NC2=NN(C=C2)C)OC2=CC=C(C=C2)S(=O)(=O)C | C22H21N3O5S
